US09403804B2
e) 4-Cyano-1H-imidazole-2-carboxylic acid [2-(4,4-dimethyl-cyclohex-1-enyl)-6-(1-hydroxy-cyclopentyl)-pyridin-3-yl]-amide
The title compound is prepared from 5-cyano-1H-imidazole-2-carboxylic acid [6-bromo-2-(4,4-dimethyl-cyclohex-1-enyl)-pyridin-3-yl]-amide (as prepared in the previous step) and cyclopentanone according to the procedure in Example 1, step (h).

reactant | 5-cyano-1H-imidazole-2-carboxylic acid [6-bromo-2-(4,4-dimethyl-cyclohex-1-enyl)-pyridin-3-yl]-amide | BrC1=CC=C(C(=N1)C1=CCC(CC1)(C)C)NC(=O)C=1NC(=CN1)C#N | C18H18BrN5O
reactant | cyclopentanone | C1(CCCC1)=O | C5H8O
product | 4-Cyano-1H-imidazole-2-carboxylic acid [2-(4,4-dimethyl-cyclohex-1-enyl)-6-(1-hydroxy-cyclopentyl)-pyridin-3-yl]-amide | CC1(CC=C(CC1)C1=NC(=CC=C1NC(=O)C=1NC=C(N1)C#N)C1(CCCC1)O)C | C23H27N5O2
